US04863482
Preparation of 2-methylamino-6-(β-methoxyethyl)amino-4- chloronitrobenzene
0.09 mole (20 g of 2-methylamino-4,6-dichloro nitrobenzene was added portionwise to 80 ml of 2-methoxyethyl amine preheated to 80° C. After 2 hours' heating, the reaction medium was diluted with 100 ml of ice water and the desired product precipitated out. After filtering, water washing then vacuum drying in the presence of P2O5, it was recrystallized from 96° ethanol. It melted at 93° C.

reactant | 2-methylamino-4,6-dichloro nitrobenzene | 20 g | CNC1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C7H6Cl2N2O2
reactant | 2-methoxyethyl amine | 80 ml | COCCN | C3H9NO
product | 2-methylamino-6-(β-methoxyethyl)amino-4- chloronitrobenzene | CNC1=C(C(=CC(=C1)Cl)NCCOC)[N+](=O)[O-] | C10H14ClN3O3
